US07074800B1
Using an analogous procedure to that described in Example 42, 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 10), was reacted with 7-hydroxy-2-methylquinoline (54 mg, 0.34 mmol), (J. Med. Chem. 1998, 41, 4062), to give 6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)-4-(2-methylquinolin-7-yloxy)quinazoline (86 mg, 63%).

reactant | 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 7-hydroxy-2-methylquinoline | 0.34 mmol, 54 mg | OC1=CC=C2C=CC(=NC2=C1)C | C10H9NO
product | 6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)-4-(2-methylquinolin-7-yloxy)quinazoline | 86 mg, 63% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC1=CC=C2C=CC(=NC2=C1)C | C26H28N4O3
